US06696437B1
a) 4-tert-Butyloxycarbonylaminothiophene-3-carboxylic Acid
2.76 g (0.022 mol) of ethyl 4-aminothiophene-3-carboxylate and 4.81 g (0.022 mol) of di-tert-butyl dicarbonate were stirred with a spatula tip of 4-N,N-dimethylaminopyridine in 100 ml of tetrahydrofuran at room temp. for 8 hours. The reaction mixture was diluted with ethyl acetate and washed three times with 5% citric acid solution. The organic phase was dried over magnesium sulfate and then concentrated in vacuo. The residue was dissolved in 100 ml of ethanol and, after addition of 100 ml of 2M sodium hydroxide solution, the mixture was stirred at room temp. for 16 hours. The aqueous residue after concentration in vacuo was mixed with 100 ml of 2M hydrochloric acid. The precipitate was removed by filtration and washed with water, and dried at 40° C. in vacuo. The residue was filtered with ethyl acetate. After filtration, the filtrate was concentrated in vacuo. 0.85 g of yellow powder was obtained.

reactant | ethyl 4-aminothiophene-3-carboxylate | 0.022 mol, 2.76 g | NC=1C(=CSC1)C(=O)OCC | C7H9NO2S
reactant | di-tert-butyl dicarbonate | 0.022 mol, 4.81 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-tert-Butyloxycarbonylaminothiophene-3-carboxylic Acid | 0.85 g | C(C)(C)(C)OC(=O)NC=1C(=CSC1)C(=O)O | C10H13NO4S
